US07423158B2
A solution of 1.34 gm (3.77 mmol) of methyltriphenylphosphonium bromide in THF at 0° C. was treated dropwise with 2.3 mL of 1.6 M n-BuLi in hexanes (3.77 mmol), stirred at 0° C. for 0.25 h, cooled to −78° C., treated dropwise with a solution of 3-(3-bromophenyl)propionaldehyde (0.7 gm, 3.28 mmol) in THF, stirred at −78° C. for 1 h, allowed to warm to room temperature, quenched with aqueous NH4Cl and concentrated under reduced pressure. The resultant residue was taken up in EtOAc, washed sequentially with water and brine, dried over Na2SO4 and concentrated under reduced pressure. Chromatography of this concentrate on silica gel with a gradient of 0.5% EtOAc-hexanes to 2.0% EtOAc-hexanes gave 1-bromo-3-but-3-enylbenzene as an oil, 0.35 gm (50% yield); 1H NMR (400 MHz, CDCl3) δ: 2.33 (m, 2H), 2.66 (t, 2H, J=7.4 Hz), 4.98 (m, 2H), 5.79 (m, 1H), 7.12 (m, 2H), 7.30 (m, 2H).

reactant | n-BuLi | 1.6 M, 2.3 mL | [Li]CCCC
reactant | 3-(3-bromophenyl)propionaldehyde | 3.28 mmol, 0.7 gm | BrC=1C=C(C=CC1)CCC=O | C9H9BrO
catalyst | methyltriphenylphosphonium bromide | 3.77 mmol, 1.34 gm | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | C1CCOC1 | C4H8O
product | 1-bromo-3-but-3-enylbenzene | 50% yield | BrC1=CC(=CC=C1)CCC=C | C10H11Br
